2166-08-21 06:40:00 Physician Resident Progress Note
TITLE: TSICU PROGRESS NOTE
   Chief Complaint: Back Pain
   24 Hour Events:
   Lidocaine patch with good effect
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2166-8-20**] 08:00 PM
   Lorazepam (Ativan) - [**2166-8-21**] 02:00 AM
   Other medications:
   20 mEq Potassium Chloride / 1000 mL D5 1/2 NS 3. Calcium Gluconate 4.
   Famotidine 5. Fentanyl PCA
   6. Insulin 7. Lidocaine 5% Patch 8. Lorazepam 9. Magnesium Sulfate 10.
   Metoclopramide 11. Ondansetron
   12. Potassium Chloride 13. Potassium Phosphate 14. Sodium Chloride
   Nasal 15. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-8-21**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 65 (55 - 76) bpm
   BP: 119/67(79) {109/57(70) - 131/75(86)} mmHg
   RR: 12 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.2 kg (admission): 84.8 kg
   Height: 75 Inch
             Total In:
                                                                  2,842 mL
                                                                    658 mL
   PO:
                                                                    170 mL
             TF:
   IVF:
                                                                  2,672 mL
                                                                    658 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    790 mL
   Urine:
                                                                  1,725 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,117 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Not assessed,
   neuro exam nonfocal
   Labs / Radiology
   224 K/uL
   13.3 g/dL
   120 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.0 mEq/L
   10 mg/dL
   98 mEq/L
   136 mEq/L
   38.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2166-8-20**]  02:37 AM
                             [**2166-8-21**]  04:54 AM
   WBC
   7.0
   7.7
   Hct
   38.9
   38.6
   Plt
   252
   224
   Cr
   1.1
   1.1
   Glucose
   132
   120
   Other labs: PT / PTT / INR:15.0/30.8/1.3, Ca++:8.6 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Imaging: CT C/L-Spine: No frx.
   CT T-Spine:
   1. Unstable Chance configuration fracture at T11 as described above.
   2. Anteriosuperior endplate fracture at T6. Single column injury,
   stable.
   3. Tiny right pulmonary lacerations with minimal, likely, at this time,
   clinically insignificant right pneumothorax.
   CXR: T11 fracture, better evaluated on CT T-spine performed
   concurrently.
   MR [**Name13 (STitle) 4771**]:
   thoracic epidural hematoma, chance fracture of T11 with disruption of
   the ALL and edema in PLL at T11, indentation of cord at T11 without
   signal abnormalaties, T6 acute endplate fracture
   Microbiology: None
   Assessment and Plan
   32M s/p MCC, hit from behind
   ISSUES:
   1.Unstable 3 column burst fracture with perched R facet at T11.
   2. T6 anterosuperior end plate fracture.
   To OR with [**Last Name (un) **]-spine today
   Neurologic: Neuro checks Q4 hr, Strict logroll precautions, RTC Zofran,
   pain controlled with fentanyl PCA, lidocaine patch
   Cardiovascular: HD stable
   Pulmonary: sats fine on RA
   Gastrointestinal / Abdomen: Soft, NTTP, nausea rx
d with reglan and
   zofran RTC
   Nutrition: NPO for OR
   Renal: Foley, Adequate UO
   Hematology: hct stable
   Endocrine: RISS
   Infectious Disease: no issues
   Lines / Tubes / Drains: Foley, PIV
   Wounds: none
   Imaging:
   Fluids: D5 1/2 NS @ 100
   Consults: Ortho-spine
   Billing Diagnosis:  VERTEBRAL fx
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2166-8-19**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU